US20010036946A1
c) 1-ethyl-4-(4-piperidinyl)piperidine
A solution of 7.6 g (0.023 mol) of 1-ethyl-4-[1-(phenylmethoxycarbonyl)-4-piperidinyl]piperidine in a mixture of 70 ml of methanol, 30 ml of water and 10 ml of glacial acetic acid was hydrogenated in the presence of 10o′ palladium/charcoal at room temperature and 3 bar of hydrogen pressure until the uptake of hydrogen had ceased. After working up in the usual way the desired compound was obtained as a colourless oil in a quantitative yield.

reactant | 1-ethyl-4-[1-(phenylmethoxycarbonyl)-4-piperidinyl]piperidine | 0.023 mol, 7.6 g | C(C)N1CCC(CC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H30N2O2
reactant | water | 30 ml | O | H2O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1-ethyl-4-(4-piperidinyl)piperidine | quantitative yield | C(C)N1CCC(CC1)C1CCNCC1 | C12H24N2
